US07700633B2
To a suspension of 3,7-bis-benzyloxynaphthalene-2-carboxylic acid (0.768 g, 2 mmol) in anhydrous t-BuOH (8 mL) and anhydrous toluene (8 mL) is added triethylamine (0.303 g, 3 mmol). To the resulting solution is added DPPA (0.715 g, 2.6 mmol) and the mixture is stirred at room temperature for 5 min, then stirred at 100° C. for 18 h. The mixture is allowed to cool to room temperature and then poured into water. The mixture is extracted into EtOAc and the organic phase is washed with saturated NaCl. The solvent is removed-under reduced pressure and the resulting residue is purified by flash chromatography, eluting with DCM to afford (3,7-bis-benzyloxynaphthalene-2-yl)-carbamic acid tert-butyl ester as a white solid: mp=179-182° C.

reactant | 3,7-bis-benzyloxynaphthalene-2-carboxylic acid | 2 mmol, 0.768 g | C(C1=CC=CC=C1)OC=1C(=CC2=CC(=CC=C2C1)OCC1=CC=CC=C1)C(=O)O | C25H20O4
reactant | triethylamine | 3 mmol, 0.303 g | C(C)N(CC)CC | C6H15N
reactant | DPPA | 2.6 mmol, 0.715 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
reactant | t-BuOH | 8 mL | CC(C)(C)O | C4H10O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | (3,7-bis-benzyloxynaphthalene-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C29H29NO4
